US04235918
A mixture of 12 g of 4-(4-chloro-3-methylsulfamoylphenyl)-4-oxobutanoic acid and 1.2 g of acetyl chloride in 120 ml of methanol is reacted for 48 hours and worked up, analogously to the instructions indicated in Example 2(a). Methyl 4-(4-chloro-3-methylsulfamoylphenyl)-4-oxobutanoate of melting point 112°-114° C. (from ethanol) is obtained.

reactant | 4-(4-chloro-3-methylsulfamoylphenyl)-4-oxobutanoic acid | 12 g | ClC1=C(C=C(C=C1)C(CCC(=O)O)=O)S(NC)(=O)=O | C11H12ClNO5S
reactant | acetyl chloride | 1.2 g | C(C)(=O)Cl | C2H3ClO
reactant | ethanol | C(C)O | C2H6O
solvent | methanol | 120 ml | CO | CH4O
product | Methyl 4-(4-chloro-3-methylsulfamoylphenyl)-4-oxobutanoate | ClC1=C(C=C(C=C1)C(CCC(=O)OC)=O)S(NC)(=O)=O | C12H14ClNO5S
